US04762887
About 348 parts of toluene diisocyanate are mixed with 90 parts of 1,3-butylene glycol and reacted at 30° C. to form a diurethane diisocyanate. About 260 parts of hydroxyethyl methacrylate are added to the resultant diurethane diisocyanate and the mixture heated at 50° C. until the --NCO content is zero.

reactant | toluene diisocyanate | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
reactant | 1,3-butylene glycol | C(CC(C)O)O | C4H10O2
product | diurethane diisocyanate | [N-]=C=O.[N-]=C=O.NC(=O)OCC.NC(=O)OCC | InChI=1S/2C3H7NO2.2CNO/c2*1-2-6-3(4)5;2*2-1-3/h2*2H2,1H3,(H2,4,5);;/q;;2*-1
